US05665718
1.0 g (0.0432 mol) of sodium was dissolved in 60 ml of methanol. 8.85 g (0.0304 mol) of 7-chloro-8-fluoro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carbonitrile and 3.25 g (0.0469 mol) of hydroxylamine hydrochloride were added thereto in succession at room temperature. The white suspension was stirred at room temperature for 67 hrs. and evaporated, whereupon the residue was suspended in 100 ml of water and the crystals were filtered off. By drying the crystallizate there were obtained 8.2 g (83%) of 7-chloro-8-fluoro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxamidoxime as white crystals; m.p. 228°-231°.

reactant | sodium | 0.0432 mol, 1.0 g | [Na] | Na
reactant | 7-chloro-8-fluoro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carbonitrile | 0.0304 mol, 8.85 g | ClC1=C(C=CC2=C1C(N(CC=1N2C=NC1C#N)C)=O)F | C13H8ClFN4O
reactant | hydroxylamine hydrochloride | 0.0469 mol, 3.25 g | Cl.NO
solvent | methanol | 60 ml | CO | CH4O
product | 7-chloro-8-fluoro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxamidoxime | 8.2 g, 83% | ClC1=C(C=CC2=C1C(N(CC=1N2C=NC1C(N)=NO)C)=O)F | C13H11ClFN5O2
